US06936608B2
1-(5-Bromo-2-fluorophenyl)-1H-[1,2,4]triazole (1.1 g, 4.5 mmol) was reacted with bis(neopentyl glycolato)diboron (1.13 g, 5.0 mmol) using the method in Example 49 to give 4-fluoro-3-([1,2,4]triazol-1-yl)phenylboronic acid as a white solid: MS (ES+) m/z 208 [M+H]+.

reactant | 1-(5-Bromo-2-fluorophenyl)-1H-[1,2,4]triazole | 4.5 mmol, 1.1 g | BrC=1C=CC(=C(C1)N1N=CN=C1)F | C8H5BrFN3
reactant | bis(neopentyl glycolato)diboron | 5.0 mmol, 1.13 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
product | 4-fluoro-3-([1,2,4]triazol-1-yl)phenylboronic acid | FC1=C(C=C(C=C1)B(O)O)N1N=CN=C1 | C8H7BFN3O2
